US05559230
Ethanol (50 ml) is added to 10% Pd-C (0.1 g) and thereto is added-1-[4-(3-nitrobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline (0.73 g). The mixture is subjected to catalytic reduction at ordinary temperature under atmospheric pressure of hydrogen. After completion of the reduction, 10% Pd-C is removed by filtration and the liltrate is concentrated under reduced pressure. The residue is extracted with dichloromethane and the extract is dried over magnesium sulfate. The solvent is distilled off under reduced pressure and recrystallized from methanol to give 1-[4-(3-aminobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline (0.54 g) as white powder, m.p. 205.5°-206.5° C.

reactant | 1-[4-(3-nitrobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline | 0.73 g | [N+](=O)([O-])C=1C=C(C(=O)NC2=CC=C(C(=O)N3CCCC4=CC=CC=C34)C=C2)C=CC1 | C23H19N3O4
reactant | hydrogen | [H][H] | H2
catalyst | Pd-C | 0.1 g | [Pd] | Pd
solvent | Ethanol | 50 ml | C(C)O | C2H6O
product | 1-[4-(3-aminobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline | 0.54 g | NC=1C=C(C(=O)NC2=CC=C(C(=O)N3CCCC4=CC=CC=C34)C=C2)C=CC1 | C23H21N3O2
